US06858651B2
In analogy to examples 1.4 and 1.5, trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester was reacted with 1,6-dibromohexane to yield trans-[4-(6-Bromo-hexyloxy)-cyclohexyl]-methyl-carbamic acid tert-butyl ester which was reacted with N-allylmethylamine to yield trans-(4-[6-(Allyl-methyl-amino)-hexyloxy]-cyclohexyl)-methyl-carbamic acid tert-butyl ester as light brown oil, MS: 382 (M).

reactant | trans-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)O)=O | C12H23NO3
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
product | trans-[4-(6-Bromo-hexyloxy)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)OCCCCCCBr)=O | C18H34BrNO3
